US06617327B2
2,3-Dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate
To a solution of [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate (2.226 g, 5.258 mmole) in water (50 mL) was added a solution of glyoxal trimeric dihydrate (1.104 g, 5.258 mmole) in ethyl alcohol (50 mL) and the reaction mixture was heated at 60° C. for 3 hours. The reaction mixture was allowed to cool to room temperature and was diluted with aqueous sodium hydrogen carbonate (250 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with water (100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 7:3) gave 1.135 g (58%) of the (R)-enantiomer of the title compound as a brown crystalline solid. Rf=0.27 (silica, ethyl acetate:hexanes 3:2); mp 124-127° C.

reactant | [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 5.258 mmole, 2.226 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)N | C16H18N2O5S
reactant | glyoxal trimeric dihydrate | 5.258 mmole, 1.104 g | C1(C(OC2C(O1)OC(C(O2)O)O)O)O | C6H10O8
solvent | water | 50 mL | O | H2O
solvent | ethyl alcohol | 50 mL | C(C)O | C2H6O
solvent | sodium hydrogen carbonate | 250 mL | C(O)([O-])=O.[Na+]
product | 2,3-Dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3N=CC=NC3=CC2)O1 | C18H16N2O5S
